US06025385
3-(4-Piperidinopiperidinocarbonyl)propionic acid (0.26 g, 0.97 mmol) and DCC (0.25 g, 1.2 mmol) were dissolved in methylene chloride, followed by the addition of 4-nitrothiophenol (0.23 g, 1.2 mmol). The resulting mixture was stirred for 16 hours at 4° C. and then overnight at room temperature. The reaction mixture was filtered. After the filtrate was concentrated, the residue was purified by chromatography on a silica gel column (chloroform-acetone mixed solvent [10:1→5:1], whereby S-4-nitrophenyl 3-(4-piperidinopiperidinocarbonyl)propanethioate (196 mg, 50%) was obtained.

reactant | 3-(4-Piperidinopiperidinocarbonyl)propionic acid | 0.97 mmol, 0.26 g | N1(CCCCC1)C1CCN(CC1)C(=O)CCC(=O)O | C14H24N2O3
reactant | DCC | 1.2 mmol, 0.25 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | 4-nitrothiophenol | 1.2 mmol, 0.23 g | [N+](=O)([O-])C1=CC=C(C=C1)S | C6H5NO2S
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | S-4-nitrophenyl 3-(4-piperidinopiperidinocarbonyl)propanethioate | 196 mg, 50% | N1(CCCCC1)C1CCN(CC1)C(=O)CCC(SC1=CC=C(C=C1)[N+](=O)[O-])=O | C20H27N3O4S
